US06545009B1
In the same manner as in Example 74, methyl 4-thiocarbamoylbenzoate was reacted with 4-bromophenacyl bromide to obtain methyl 4-[4-(4-bromophenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 73%. Colorless prisms. Melting point: 206 to 207° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 4-bromophenacyl bromide | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
product | methyl 4-[4-(4-bromophenyl)-2-thiazolyl]benzoate | Yield: 73% | BrC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1 | C17H12BrNO2S
